Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ___
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with past medical history significant for HTN, orthostatic 
hypotension and BPH who presents with a syncopal episode.
  Patient arrives via ___ EMS. patient ___ speaking 
only. family member (niece) at bedside interpreting.
  Per daughter, she states that he is a generally healthy man 
who previously was diagnosed with hypertension, but currently 
takes no blood pressure medications. States "we heard a thump 
and then found him on the floor, my mom found him and said he 
was cold, and pale, and sweaty". Patient with unknown length of 
LOC, but was minimally interactive when found.
  Called ___ and when EMS arrived the patient was found to have 
a blood pressure of 60 over palp which resolved rapidly with 
administration of approximately 500 cc of normal saline. He was 
then brought to BI.
  

#In the ED
   500 ml NS fluid bolus from EMS with increase in BP to 120/60. 
patient arrives awake, alert, oriented, following commands. 
changed into hospital gown, placed on telemetry, BP on right arm 
157/70, left arm 157/59. EKG being completed, FSBG 102

 - Initial vital signs were: 97.6 66 184/72 16 100%RA

 - Exam notable for:  
   AOx3, Denying pain in any area.
   Left lower lobe crackles
   Bilateral trace pitting edema in the lower extremities
   Rectal: Heme Negative brown stool

 - Labs were notable for: 
    -Lactate 2.3, BNP: 158, Hb: 10.4
    *GFR: 60

 - Studies performed include: 

EKG: w/o ST-T wave changes concerning for ischemia

[x] FAST: negative. Right renal cyst incidentally noted
___
CT C-Spine W/O Contrast
Preliminary Report 
No acute fracture or traumatic malalignment. 
 
___
CT Head W/O Contrast
Preliminary Report 
No acute intracranial abnormality. 
 
___
CXR:
IMPRESSION:  
No acute cardiopulmonary process. Biapical pleural opacities 
consistent with postinflammatory scarring and prominent right 
vasculature. 

 - Patient was given: 1L Bolus NS (last @ 1030)
  

Prior to arrival on the floor, contacted his outpatient medical 
service provider ___ "___ According to 
covering provider and in thorough review of records Mr. ___ 
only recently established care at ___ in ___. 
  States that since establishing care he was diagnosed with htn 
and bph after finding systolics in 170s-180s. He was initiated 
on amlodipine ___. On follow up visits in ___ found to 
have significant postural hypotension of 100s/50s and amlodipine 
was instructed to be held. 
  Subsequent visit he was found to be persistently hypotensive 
and still Flomax was instructed to be held. Over the following 
month he was seen for ongoing foot pain and diagnosed with gout 
with 5 day prednisone burst ending ___. Incidentally, he was 
noted to have normal blood pressures at these visits. 
  In follow up on ___ he was restarted on Tamsulosin 0.4mg. At 
this time the note was unfinished it was unclear who restarted. 
He has not seen urology. 
  Patient then seen with granddaughter, son and via interpreter. 
States that he was seated when got dizzy and had tunneled black 
vision and slid onto his back. He denied room spinning, 
blood/metallic taste in mouth, incontinence, headaches after 
awakening. No history of CVA, MI, Seizures. 
 
 
Past Medical History:
-HTN (c/b by ___: SBP 185
-Postural Hypotension
-Anemia (last H/H 11.7/35.4)
-CKD (GFR - 50) (baseline around 1.4-1.7)
-BPH
-Gout (diagnosed ___
 
Social History:
___
Family History:
unknown w/r/t health hx
 
 
Physical Exam:
ADMISSION EXAM: 

 Vitals- 97.7 ___ 100RA
 General:  NAD AOx3
 HEENT:  EMOI, PERRLA, No facial asymmetry 
 Neck:  supple nontender, carotid bruit of left, no thyromegaly
 CV:  RRR w/soft SEM. No gallops or rubs
 Lungs:  CTA B/L with good chest wall excursion no wheezes 
rhonchi or rales
 Abdomen: NDNT +BS   
 Ext:  pulses 2+ b/l dp, pt and radial
 Neuro:  CN II-XII in tact
 Skin:  multiple SK

DISCHARGE EXAM: 

 Vitals- 98.2 159/93 60 18 99% RA
FSBS: 83

 General:  NAD, eating breakfast
 HEENT:  EMOI, PERRLA, No facial asymmetry 
 Neck:  supple nontender, carotid bruit of left, no thyromegaly
 CV:  RRR w/soft SEM. No gallops or rubs
 Lungs:  CTA B/L with good chest wall excursion no wheezes 
rhonchi or rales
 Abdomen: NDNT +BS   
 Ext:  pulses 2+ b/l dp, pt and radial
 Neuro:  CN II-XII in tact
 Skin:  multiple SK

 
Pertinent Results:
ADMISSION LABS: 

___ 09:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 08:37AM   LACTATE-2.3*
___ 08:35AM   estGFR-Using this
___ 08:35AM   GLUCOSE-101* UREA N-14 CREAT-1.2 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-109* TOTAL CO2-22 ANION GAP-14
___ 08:35AM   ALT(SGPT)-16 AST(SGOT)-29 ALK PHOS-78 TOT 
BILI-0.3
___ 08:35AM   cTropnT-<0.01
___ 08:35AM   ALBUMIN-3.3*
___ 08:35AM   ALBUMIN-3.3*
___ 08:35AM   WBC-7.3 RBC-3.71* HGB-10.4* HCT-32.9* MCV-89 
MCH-28.0 MCHC-31.6* RDW-14.9 RDWSD-47.9*
___ 08:35AM   NEUTS-38.0 ___ MONOS-8.1 EOS-6.3 
BASOS-0.5 IM ___ AbsNeut-2.77 AbsLymp-3.42 AbsMono-0.59 
AbsEos-0.46 AbsBaso-0.04
___ 08:35AM   PLT COUNT-196
___ 08:35AM   ___ PTT-33.6 ___

PERTINENT STUDIES: 

___
Sinus bradycardia. Otherwise, within normal limits. No previous 
tracing
available for comparison.

___ HEAD W/O CONTRAST
FINDINGS: 
There is no evidence of infarction, hemorrhage, edema, or mass. 
There is
prominence of the ventricles and sulci suggestive of 
involutional changes. 
Periventricular white matter hypodensities are nonspecific but 
commonly seen
in chronic small vessel ischemic changes.
There is no evidence of fracture.  There is severe mucosal 
thickening of the
left maxillary sinus, and the patient is status post left 
maxillary
antrostomy.  An osteoma is noted in a posterior right ethmoid 
air cell.  The
visualized portion of the other paranasal sinuses, mastoid air 
cells, and
middle ear cavities are clear.  The patient is status post 
bilateral lens
replacement.  Atherosclerotic calcifications are noted along the 
bilateral
carotid siphons and vertebral arteries.
IMPRESSION: 
No acute intracranial abnormality.

___ NECK W&W/O CONTRAST 
IMPRESSION:
1. Unremarkable  MRA neck with mild narrowing of the right 
carotid
bifurcation, likely secondary to atherosclerosis without any 
stenosis by
NASCET criteria.

___ (TTE)
The left atrial volume index is normal. The estimated right 
atrial pressure is ___ mmHg. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(biplane LVEF 62%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Global longitudinal strain is normal (-19%). 
There is no left ventricular outflow obstruction at rest or with 
Valsalva. Right ventricular chamber size and free wall motion 
are normal. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. Mild (1+) aortic regurgitation is seen. The mitral 
valve leaflets are structurally normal. Mild (1+) mitral 
regurgitation is seen. The estimated pulmonary artery systolic 
pressure is normal. There is no pericardial effusion. 

IMPRESSION: Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
Mild aortic regurgitation. Mild mitral regurgitation. No 
structural cardiac cause of syncope identified.

DISCHARGE LABS: 

___ 08:20AM BLOOD WBC-5.6 RBC-3.91* Hgb-11.0* Hct-34.0* 
MCV-87 MCH-28.1 MCHC-32.4 RDW-14.9 RDWSD-47.2* Plt ___
___ 08:20AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-87 UreaN-20 Creat-1.3* Na-142 
K-3.9 Cl-106 HCO3-26 AnGap-14
___ 06:25AM BLOOD Albumin-3.7 Calcium-9.4 Phos-4.0 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is an ___ year old Asian male with past medical 
history significant for HTN (w/o tx ___ medication side effect, 
hypotension), who presents for further work up of syncope the 
morning of this admission with persistent orthostatics and 
intermittent hypertension having discontinued anti-htn 
medications. 

#Syncope: 

In context of significant history of hypotension secondary to 
medication side effects in conjunction with normal aging 
decreased reflexivity of normal baroreceptor response, it is 
most likely that his hypotension had previously been quite 
labile, as above, and was exacerbated after having restarted his 
tamsulosin for BPH ___. 
All pertinent imaging to evaluate for intracranial pathology 
negative. Patient with negative cardiac workup. No events on 
tele. No known seizure history and currently all electrolytes 
are stable w/o concern for toxic metabolic causes of seizure. 
Since admission, have held tamsulosin and reduced amlodipine 
from 5mg to 2.5mg and d/c ___. Patient continues to have good 
UOP. 
Consulted neurology autonomics team for opinion on BP control 
medications, or lack thereof, and role for midodrine +/- 
fludrocortisone. It was decided there was no role for these 
medications at present and pt should discontinue use of 
tamsulosin and encourage PO intake. Any future orthostatic 
episodes should merit an appointment with an outpatient 
neurologist. 

#BPH: 
Holding home tamsulosin as above. Good UOP as inpatient. Likely 
does not currently require this treament and future 
considerations could be given to TURP versus medical 
interventions. 

Of note, Cr was mildly elevated at 1.3 on the day of discharge. 
This should be rechecked at his follow-up appointment.

*****TRANSITION ISSUES*****
# Code Status: Full (confirmed w/granddaughter)
# Emergency Contact/HCP: HCP: Son, ___ @ ___ 
HOWEVER, first contact should be granddaughter as speaks 
___: ___
#F/up ___ at home and PO intake
#F/up that patient is not taking tamsulosin any longer
#Any further issues with labile blood pressures should be 
referred to neurology clinic for further workup of orthostasis 
and dysautonomia
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Medications:
1. Rolling walker
ICD 10 code: ___
Prognosis: Good
Length of need: 13 months
2. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: Orthostatic Hypotension, syncope

Secondary: Benign Prostatic Hyperplasia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

  You were evaluated at ___ 
following an episode of syncope or "fainting" after being found 
on the floor at home by your chair. During your admission we 
evaluated for many causes of fainting. All of which were 
reassuring. 
  Additionally, during your admission we held all of your blood 
pressure and prostate medications. Despite this you continued to 
intermittently have high blood pressures, albeit infrequently. 
  Because of this, we had our neurology team evaluate you for 
any signs of nerve dysfunction or "dysautonomia." We were 
reassured in that they did not find any evidence of such 
dysfunction. 

  You should no longer take your amlodipine or tamsulosin. Your 
primary care provider at ___ will follow up with 
you within a week. 

  It was a pleasure taking part in your medical care. 

Best,

Your ___ ___ Team
 
Followup Instructions:
___